US07985753B2
(3-Bromo-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-(6-bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 3-Bromo-5,6,7,8-tetrahydro-[1,6]naphthyridine to provide the title compound.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 3-Bromo-5,6,7,8-tetrahydro-[1,6]naphthyridine | BrC=1C=NC=2CCNCC2C1 | C8H9BrN2
product | (3-Bromo-7,8-dihydro-5H-[1,6]naphthyridin-6-yl)-(6-bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone | Yield: 62% | BrC=1C=NC=2CCN(CC2C1)C(=O)C1=NN2C(N=CC(=C2)Br)=C1 | C15H11Br2N5O
